US07968595B2
Synthesis of (2S)-2-Amino-N—((R)-2,8-diamino-4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-4H-chromen-7-yl)propanamide
To an oven-dried one-neck round bottom reaction flask charged with a magnetic stir bar at room temperature under argon was added (9H-fluoren-9-yl)methyl(S)-1-((R)-2,8-diamino-3-cyano-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromen-7-ylcarbamoyl)-ethylcarbamate (0.045 g, 0.063 mmol), CH2Cl2:MeOH, 1:1 (2.11 mL) and 2N NaOH (0.063 mL, 0.13 mmol). The orange suspension was stirred at room temperature overnight. The suspension was concentrated leaving a brown residue. The residue was extracted with CHCl3 (3×40 mL), dried over MgSO4, filtered and concentrated to give the crude product. Purification by flash column chromatography (silica gel 4 g pre-packed column, elution with CH2Cl2:MeOH, 1:1) gave 0.005 g (16%) of the title compound as a yellow solid: 1H-NMR (DMSO-d6): δ 8.32 (s, 1H), 7.02 (d, J=8.2 Hz, 1H), 6.98 (d, J=1.9 Hz, 1H), 6.91 (br s, 2H), 6.86 (d, J=1.9 Hz, 1H), 6.33 (d, J=8.5 Hz, 1H), 4.78 (br s, 2H), 4.69 (s, 1H), 3.80 (s, 3H), 3.70 (s, 3H), 1.22 (d, J=6.9 Hz, 3H). ESI-MS (C21H22BrN5O4) 487.09 m/z (%): 488 [M+H]+ (100%), 490 [M+H]+ (90%).

reactant | (9H-fluoren-9-yl)methyl(S)-1-((R)-2,8-diamino-3-cyano-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromen-7-ylcarbamoyl)-ethylcarbamate | 0.063 mmol, 0.045 g | NC=1OC2=C(C(=CC=C2[C@H](C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)NC(=O)[C@H](C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)N | C36H32BrN5O6
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | NaOH | 0.13 mmol, 2N, 0.063 mL | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | (2S)-2-Amino-N—((R)-2,8-diamino-4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-4H-chromen-7-yl)propanamide | 0.005 g, 16% | N[C@H](C(=O)NC1=CC=C2[C@H](C(=C(OC2=C1N)N)C#N)C1=CC(=C(C(=C1)OC)OC)Br)C | C21H22BrN5O4
